US09023849B2
1-(2-Fluorobenzyl)-3-iodo-1H-pyrazolo[3,4-d]pyrimidine
569 mg (2.313 mmol) of 3-iodo-1H-pyrazolo[3,4-d]pyrimidine and 828 mg (2.544 mmol) of caesium carbonate were initially charged in 10 ml of DMF, and 481 mg (2.544 mmol) of 2-fluorobenzyl bromide dissolved in 2 ml of DMF were added. The reaction mixture was stirred at RT overnight, diluted with 50 ml of water and filtered with suction, and the residue was dried under high vacuum. 733 mg of the target compound were obtained (purity 83%; 74% of theory).

reactant | 3-iodo-1H-pyrazolo[3,4-d]pyrimidine | 2.313 mmol, 569 mg | IC1=NNC2=NC=NC=C21 | C5H3IN4
reactant | caesium carbonate | 2.544 mmol, 828 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-fluorobenzyl bromide | 2.544 mmol, 481 mg | FC1=C(CBr)C=CC=C1 | C7H6BrF
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
product | 1-(2-Fluorobenzyl)-3-iodo-1H-pyrazolo[3,4-d]pyrimidine | 733 mg | FC1=C(CN2N=C(C=3C2=NC=NC3)I)C=CC=C1 | C12H8FIN4
